US05051417
4-Pyridinecarboxylic acid, 2-[2,3-dihydro-5-(3,6-dihydro-6-methyl-2-oxo-2H-1,3,4-thiadiazin-5-yl)-2-oxo -1H-indol-3-ylidene1hydrazide
Starting from 1,3-dihydro-5-(3,6-dihydro-6-methyl-2-oxo -2H-1,3,4-thiadiazin-5-yl)-3-phenylimino-2H-indol-2-one, and isonicotinic acid hydrazide and following the method described in Example 21, the desired compound was obtained.

reactant | 1,3-dihydro-5-(3,6-dihydro-6-methyl-2-oxo -2H-1,3,4-thiadiazin-5-yl)-3-phenylimino-2H-indol-2-one | CC1C(=NNC(S1)=O)C=1C=C2C(C(NC2=CC1)=O)=NC1=CC=CC=C1 | C18H14N4O2S
reactant | isonicotinic acid hydrazide | C(C1=CC=NC=C1)(=O)NN | C6H7N3O
product | 4-Pyridinecarboxylic acid, 2-[2,3-dihydro-5-(3,6-dihydro-6-methyl-2-oxo-2H-1,3,4-thiadiazin-5-yl)-2-oxo -1H-indol-3-ylidene1hydrazide | Yield: 68% | CC1C(=NNC(S1)=O)C=1C=C2C(C(NC2=CC1)=O)=NNC(=O)C1=CC=NC=C1 | C18H14N6O3S
